* AINativeSPice Test Library
* Common components for testing the importer.

.MODEL 2N3904 NPN (IS=6.734f XTI=3 EG=1.11 VAF=74.03 BF=416.4 NE=1.259 
+ ISE=6.734f IK_F=66.78m XTB=1.5 BR=7.371 NC=2 ISC=0 IKR=0 RC=1 
+ CJC=3.638p MJC=.3085 VJC=.75 FC=.5 CJE=4.493p MJE=.2593 VJE=.75 
+ TR=239.5n TF=301.2p ITF=.4 VTF=4 XTF=2 RB=10)

.MODEL 1N4148 D (IS=2.682n N=1.833 RS=.5664 IKF=44.17m CJO=4p M=.3333 
+ VJ=.5 ISR=1.565n NR=2 BV=100 IBV=100u TT=11.54n)

* LM358 Op-Amp Subcircuit
* Pins: 1:OUT, 2:INV, 3:NON-INV, 4:V-, 5:V+
.SUBCKT LM358 1 2 3 4 5
R1 3 4 10MEG
R2 2 4 10MEG
E1 1 4 VALUE={ (V(3)-V(2)) * 100k }
.ENDS LM358

* BSS138 N-Channel MOSFET
.MODEL BSS138 NMOS (LEVEL=2 VTO=1.5 KP=0.1)

* Generic LDO Subcircuit
* Pins: IN OUT GND
.SUBCKT REG1117 1 2 3
E1 2 3 VALUE={ MIN(V(1)-V(3)-0.2, 3.3) }
.ENDS REG1117
